US07105533B2
A solution of 2-(tributylstannyl)pyridine (18 g of 80% pure, 39.2 mmol) and 4-cyano-2-methoxyphenyl trifluoromethanesulfonate (9.2 g, 32.7 mmol) were dissolved in DMF (65 mL) and treated with lithium chloride (1.39 g, 32.7 mmol) and Pd(PPh3)4 (1.9 g, 1.6 mmol), then degassed by bubbling argon through the solution for 15 min. The reaction mixture was heated to 100° C. while under an atmosphere of argon for 12 h. The cooled reaction mixture was diluted with diethyl ether (100 mL) and water (100 mL). The organic layer was separated and washed with a 1M solution of sodium hydroxide (50 mL) and brine (50 mL), then dried (MgSO4) and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:9 to 1:1) to afford 3-methyoxy-4-pyridin-2-ylbenzonitrile.

reactant | 2-(tributylstannyl)pyridine | 39.2 mmol, 18 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | 4-cyano-2-methoxyphenyl trifluoromethanesulfonate | 32.7 mmol, 9.2 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C#N)OC)(F)F | C9H6F3NO4S
reactant | lithium chloride | 32.7 mmol, 1.39 g | [Cl-].[Li+]
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.6 mmol, 1.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methyoxy-4-pyridin-2-ylbenzonitrile | COC=1C=C(C#N)C=CC1C1=NC=CC=C1 | C13H10N2O
